US08247573B2
336 mg (4.0 mmol) NaHCO3 were added to a solution of 294 mg (1.0 mmol) [2-[2-(benzenesulfonyl)-ethylsulfanyl]-pyridin-3-yl]amine (VPF-002) in dioxane (10 ml) and the mixture was stirred for 10 min at RT. Then 321 mg (2.0 mmol) 2-cyclohexylacetylchloride were added at 5° C. and the mixture was stirred for a further 16 h at RT. Then it was diluted with EE and filtered through kieselguhr. The filtrate was washed with a saturated aqueous NaHCO3 solution, water and brine, dried over Na2SO4, filtered and concentrated to small volume under vacuum. Column chromatography (hexane/EE 6:1) of the residue yielded 368 mg (0.9 mmol, 88%) N-[2-[2-(benzenesulfonyl)-ethyl-sulfanyl]-pyridin-3-yl]-2-cyclohexyl acetamide. MS: m/z 419.1 [M+H]+.

reactant | NaHCO3 | 4.0 mmol, 336 mg | C(=O)(O)[O-].[Na+]
reactant | [2-[2-(benzenesulfonyl)-ethylsulfanyl]-pyridin-3-yl]amine | 1.0 mmol, 294 mg | C1(=CC=CC=C1)S(=O)(=O)CCSC1=NC=CC=C1N | C13H14N2O2S2
reactant | 2-cyclohexylacetylchloride | 2.0 mmol, 321 mg | C1(CCCCC1)CC(=O)Cl | C8H13ClO
reactant | hexane | CCCCCC | C6H14
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N-[2-[2-(benzenesulfonyl)-ethyl-sulfanyl]-pyridin-3-yl]-2-cyclohexyl acetamide | 0.9 mmol, 368 mg, 88% | C1(=CC=CC=C1)S(=O)(=O)CCSC1=NC=CC=C1NC(CC1CCCCC1)=O | C21H26N2O3S2
